US05824691
A suspension of 1-tri(n-butyl)stannyl-2-(4,4-dimethyl-4,5-dihydrooxazol-2-yl)benzene (5 g), methyl 3-iodobenzoate (2.17 g) and tetrakis(triphenylphosphine) palladium(0) (0.29 g) in dioxane was refluxed for 18 hours. After being cooled to room temperature, 25% potassium fluoride aqueous solution (11 ml) was added to the reaction mixture and the mixture was stirred for 15 minutes. Insoluble material was filtered by using celite The filtrate was extracted with ethyl acetate (50 ml), washed with brine, dried over magnesium sulfate, filtered and evaporated in vacuo. The residue was purified by column chromatography on silica gel (200 g) with benzene-ethyl acetate (20:1) as an eluent. The fractions containing the object compound were combined and evaporated in vacuo. The residue was recrystallized from methanol to afford methyl 3-[2-(4,4-dimethyl-4,5-dihydrooxazol-2-yl)phenyl]benzoate (370 mg).

reactant | 1-tri(n-butyl)stannyl-2-(4,4-dimethyl-4,5-dihydrooxazol-2-yl)benzene | 5 g | C(CCC)[Sn](C1=C(C=CC=C1)C=1OCC(N1)(C)C)(CCCC)CCCC
reactant | methyl 3-iodobenzoate | 2.17 g | IC=1C=C(C(=O)OC)C=CC1 | C8H7IO2
reactant | potassium fluoride | 11 ml | [F-].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.29 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | methyl 3-[2-(4,4-dimethyl-4,5-dihydrooxazol-2-yl)phenyl]benzoate | 370 mg | CC1(N=C(OC1)C1=C(C=CC=C1)C=1C=C(C(=O)OC)C=CC1)C | C19H19NO3
